US05856326
2(S)-Butyl-4-(1-naphthoyl)-1-(3-pyridylmethyl)piperazine dihydrochloride
3(S)-Butyl-1-(1-naphthoyl)piperazine hydrochloride (0.200 g, 0.601 mmol) was reacted with pyridine-3-carboxaldehyde (0.062 mL, 0.661 mmol), sodium triacetoxyborohydride (0.321 g, 1.52 mmol), in dichloroethane (7 mL) at pH 5-6 in the presence of crushed molecular sieves as described in Example 8, Step A. The crude product was purified by silica gel chromatography with 30% acetone in hexane, followed by preparative HPLC (80-75% solvent A). After ion exchange, the title compound was isolated. FAB ms (m+1) 388. Anal. Calc. for C25H29N3O.2.3 HCl.0.95 H2O. C, 61.49; H, 6.85; N, 8.60. Found: C, 61.49; H, 7.01; N, 8.76.

reactant | 3(S)-Butyl-1-(1-naphthoyl)piperazine hydrochloride | 0.601 mmol, 0.200 g | Cl.C(CCC)[C@H]1CN(CCN1)C(=O)C1=CC=CC2=CC=CC=C12
reactant | pyridine-3-carboxaldehyde | 0.661 mmol, 0.062 mL | N1=CC(=CC=C1)C=O | C6H5NO
reactant | sodium triacetoxyborohydride | 1.52 mmol, 0.321 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 7 mL | ClC(C)Cl | C2H4Cl2
product | 2(S)-Butyl-4-(1-naphthoyl)-1-(3-pyridylmethyl)piperazine dihydrochloride | Cl.Cl.C(CCC)[C@@H]1N(CCN(C1)C(=O)C1=CC=CC2=CC=CC=C12)CC=1C=NC=CC1 | InChI=1S/C25H29N3O.2ClH/c1-2-3-11-22-19-28(16-15-27(22)18-20-8-7-14-26-17-20)25(29)24-13-6-10-21-9-4-5-12-23(21)24;;/h4-10,12-14,17,22H,2-3,11,15-16,18-19H2,1H3;2*1H/t22-;;/m0../s1
